US07291643B2
N-[4-(5-cyano-1-ethyl-1H-pyrrol-2-yl)phenyl]ethanesulfonamide
N-[4-(5-cyano-1H-pyrrol-2-yl)phenyl]ethanesulfonamide (0.160 g, 0.58 mmol) was dissolved in tetrahydrofuran (10 mL). Potassium tert-butoxide (1.25 mL of a 1 M solution, 1.25 mmol) was dropwise added and the mixture stirred 15 minutes. Ethyl iodide (0.046 mL, 0.58 mmol) was dropwise added, followed by dimethyl formamide (5 mL) and the mixture stirred for 4 hours. The mixture was then partitioned between saturated ammonium chloride and ethyl acetate. The combined organic layers were dried over magnesium sulfate, and concentrated. The residue was purified by silica gel Flash Chromatography (hexane/ethyl acetate; 7:3) to afford the title compound (0.020 g, 11%).

reactant | N-[4-(5-cyano-1H-pyrrol-2-yl)phenyl]ethanesulfonamide | 0.58 mmol, 0.160 g | C(#N)C1=CC=C(N1)C1=CC=C(C=C1)NS(=O)(=O)CC | C13H13N3O2S
reactant | Potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | Ethyl iodide | 0.58 mmol, 0.046 mL | C(C)I | C2H5I
reactant | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[4-(5-cyano-1-ethyl-1H-pyrrol-2-yl)phenyl]ethanesulfonamide | 0.020 g, 11% | C(#N)C1=CC=C(N1CC)C1=CC=C(C=C1)NS(=O)(=O)CC | C15H17N3O2S
